US07517899B2
(2S,3S)-3-(3-fluorophenyl)-2-hydroxy-3-(1H-indol-1-yl)propyl 4-methylbenzenesulfonate (200 mg, 0.456 mmol) was dissolved in a solution of ethylamine in methanol (2.0 M, 10 mL) and stirred for 12 hours in a sealed reaction vessel. All volatiles were removed under reduced pressure, and the liquid residue was dissolved in dichloromethane (15 mL), washed with a saturated aqueous solution of potassium carbonate, dried (anhydrous sodium sulfate), and concentrated. Purification of the liquid residue by Biotage chromatography (FlasH12i, silica, 0-15% MeOH/dichloromethane/0.5% triethylamine) gave (1S,2R)-1-(3-fluorophenyl)-1-(1H-indol-1-yl)-3-(ethylamino)propan-2-ol, which was used to prepare (1S,2R)-3-(ethylamino)-1-(3-fluorophenyl)-1-(1H-indol-1-yl)propan-2-ol hydrochloride as a white powder in an analogous matter to EXAMPLE 144, step 2. Yield: 99 mg (70%). MS (ES) m/z 313.1 ([M+H]+); HRMS: calcd for C19H21FN2O+H+, 313.1716; found (ESI, [M+H]+), 313.1716.

reactant | (2S,3S)-3-(3-fluorophenyl)-2-hydroxy-3-(1H-indol-1-yl)propyl 4-methylbenzenesulfonate | 0.456 mmol, 200 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]([C@@H](N1C=CC2=CC=CC=C12)C1=CC(=CC=C1)F)O | C24H22FNO4S
reactant | ethylamine | C(C)N | C2H7N
solvent | methanol | 2.0 M, 10 mL | CO | CH4O
product | (1S,2R)-1-(3-fluorophenyl)-1-(1H-indol-1-yl)-3-(ethylamino)propan-2-ol | FC=1C=C(C=CC1)[C@@H]([C@@H](CNCC)O)N1C=CC2=CC=CC=C12 | C19H21FN2O
